US05380921
(i) N-[1-(R)-diethoxyphosphoryl-3-phenylpropyl]-L-leucine benzyl ester
To a solution of 400 mg of diethyl 1-(R)-amino-3-phenylpropylphosphonate in 5 ml of anhydrous dichloromethane was added a solution of 0.25 ml of triethylamine and 627 mg of benzyl 2-(R)-trifluoromethanesulfonyloxy-4-methylpentanoate in 2.5 ml of anhydrous dichloromethane, and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with 30 ml of dichloromethane, and the diluted solution was washed with 20 ml of water and dried over anhydrous magnesium sulfate. Then the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (hexane: ethyl acetate=1:1) to yield the title compound as a colorless oil (238 mg).

reactant | diethyl 1-(R)-amino-3-phenylpropylphosphonate | 400 mg | N[C@@H](CCC1=CC=CC=C1)P(OCC)(OCC)=O | C13H22NO3P
reactant | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl 2-(R)-trifluoromethanesulfonyloxy-4-methylpentanoate | 627 mg | FC(S(=O)(=O)O[C@@H](C(=O)OCC1=CC=CC=C1)CC(C)C)(F)F | C14H17F3O5S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-[1-(R)-diethoxyphosphoryl-3-phenylpropyl]-L-leucine benzyl ester | 238 mg | C(C1=CC=CC=C1)OC([C@@H](N[C@@H](CCC1=CC=CC=C1)P(=O)(OCC)OCC)CC(C)C)=O | C26H38NO5P
